US05591742
8-Carbamoyl-2-(2-ethoxyphenyl)pyrido[3,2-d]pyrimidin-4(3H)-one
30% Aqueous hydrogen peroxide solution (0.5 ml) was added to a stirred aqueous sodium hydroxide solution (1M, 40 ml), followed by 8-cyano-2-(2-ethoxyphenyl)pyrido[3,2-d]pyrimidin-4(3H)-one (Preparation 14; 0.2 g, 0.00068 mol) and ethanol (2 ml). The mixture was heated under reflux for 2 hours, allowed to cool, acidified with 1N hydrochloric acid, and then extracted with a mixture of dichloromethane and methanol (10:1, 5×50 ml). The combined organic fractions were evaporated under vacuum and the resulting residue triturated with ethanol to give the title compound as a colourless solid (0.152 g, 72%), m.p. 295°-297° C. Found: C,61.65; H,4.56; N,17.61. C16H14N4O3 requires C,61.93; H,4.55; N,18.06%.

reactant | hydrogen peroxide | 0.5 ml | OO | H2O2
reactant | sodium hydroxide | 1M, 40 ml | [OH-].[Na+]
reactant | 8-cyano-2-(2-ethoxyphenyl)pyrido[3,2-d]pyrimidin-4(3H)-one | 0.00068 mol, 0.2 g | C(#N)C1=CC=NC2=C1N=C(NC2=O)C2=C(C=CC=C2)OCC | C16H12N4O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 8-Carbamoyl-2-(2-ethoxyphenyl)pyrido[3,2-d]pyrimidin-4(3H)-one | 0.152 g, 72% | C(N)(=O)C1=CC=NC2=C1N=C(NC2=O)C2=C(C=CC=C2)OCC | C16H14N4O3
